US08791142B2
Step 1) 6-[(2,3-dihydroxypropyl)amino]nicotinonitrile
A mixture of 3-amino-1,2-propanediol (4.93 g, 54.1 mmol) and 6-chloronicotinonitrile (1.50 g, 10.8 mmol) was prepared in anhydrous dioxane (20 mL), and then stirred at RT for hours and 80° C. for additional hours. The reaction mixture was diluted with EtOAc (100 mL) and washed with a half saturated solution of brine (2×50 mL) and brine (50 mL). The aqueous layers were extracted with EtOAc (2×50 mL). The organic layers were combined, dried (Na2SO4) and concentrated under reduced pressure. After purification by trituration in hot MTBE (10 mL) and filtration, the title compound was obtained as a white powder (970 mg, 46%). UPLC/MS, M+(ESI): 193.9, M−(ESI): 192.1.

reactant | 3-amino-1,2-propanediol | 54.1 mmol, 4.93 g | NCC(CO)O | C3H9NO2
reactant | 6-chloronicotinonitrile | 10.8 mmol, 1.50 g | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 6-[(2,3-dihydroxypropyl)amino]nicotinonitrile | OC(CNC1=NC=C(C#N)C=C1)CO | C9H11N3O2
